US05962490
To a stirred solution of 1-acetoxy-2-[(3,4-methylenedioxy)phenyl]ethane (1.7 g, 8.09 mmol) in acetic acid (10 ml) was added, dropwise, concentrated HNO3 (4.5 ml). This was stirred at room temperature for 30 min. The reaction mixture was poured into water (100 ml). The precipeated solid was filtered, washed with water and dried under high vacuum to get 1-acetoxy-2-[(3,4-methylenedioxy)-6-nitrophenyl]ethane (1.8 g, 88% yield).

reactant | 1-acetoxy-2-[(3,4-methylenedioxy)phenyl]ethane | 8.09 mmol, 1.7 g | C(C)(=O)OCCC1=CC2=C(C=C1)OCO2 | C11H12O4
reactant | HNO3 | 4.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1-acetoxy-2-[(3,4-methylenedioxy)-6-nitrophenyl]ethane | 1.8 g, 88% yield | C(C)(=O)OCCC1=CC2=C(C=C1[N+](=O)[O-])OCO2 | C11H11NO6
